US07598249B2
4-Quinolin-3-ylmethyl-piperazine-1-carboxylic acid thiazol-2-ylamide
The title compound was prepared from thiazol-2-yl-carbamic acid phenyl ester and 3-piperazin-1-ylmethyl-quinoline in analogy with Example 142. 1H NMR (400 MHz, CDCl3): 9.03 (d, J=2.0 Hz, 1H), 8.24-8.20 (m, 2H), 7.94 (d, J=8.1 Hz, 1H), 7.86-7.81 (m, 1H), 7.70-7.66 (m, 1H), 7.43 (d, J=3.3 Hz, 1H), 6.98 (d, J=3.5 Hz, 1H), 3.87 (s, 2H), 3.73-3.69 (m, 4H), 2.68 (bs, 4H).

reactant | thiazol-2-yl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1SC=CN1)=O | C10H8N2O2S
reactant | 3-piperazin-1-ylmethyl-quinoline | N1(CCNCC1)CC=1C=NC2=CC=CC=C2C1 | C14H17N3
product | 4-Quinolin-3-ylmethyl-piperazine-1-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)N1CCN(CC1)CC=1C=NC2=CC=CC=C2C1 | C18H19N5OS
